US04775675
2(S)-(2-Acetoxyphenyl)-3-acetyl-5,5-dimethylthiazolidine-4(S)-carboxylic acid
A solution containing 1.0 g of 5,5-dimethyl-2-(2-hydroxyphenyl)-thiazolidine-4(S)-carboxylic acid in 7 ml of pyridine and 3 ml of acetic anhydride is kept for 20 hours, then the mixture is evaporated and three times 20 ml of toluene each are distilled from the residue. The remained crystalline material is recrystallized from the mixture of acetone and petroleum ether to give the title compound in a yield of 0.9 g (67.5 %), m.p.: 214°-216° C. [α]D22 =+34 (c=0.47, chloroform).

reactant | 5,5-dimethyl-2-(2-hydroxyphenyl)-thiazolidine-4(S)-carboxylic acid | 1.0 g | CC1([C@@H](NC(S1)C1=C(C=CC=C1)O)C(=O)O)C | C12H15NO3S
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2(S)-(2-Acetoxyphenyl)-3-acetyl-5,5-dimethylthiazolidine-4(S)-carboxylic acid | C(C)(=O)OC1=C(C=CC=C1)[C@@H]1SC([C@@H](N1C(C)=O)C(=O)O)(C)C | C16H19NO5S
